US09126931B2
2-(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yloxy)-N-(2-cyano-ethyl)-N-methyl-acetamide
(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yloxy)-acetic acid (Compound A8-7, 30 mg, 0.083 mmol), N-methyl-3-aminopropionitrile (14 mg, 2 eq.) and HOBt (30 mg, 3 eq.) were dissolved in 0.5 ml DMF, added with EDC (48 mg, 3 eq.), and stirred at room temperature overnight. Thereafter, the solvent was removed under reduced pressure and the resulting residues were purified by preparative TLC to obtain the title compound (7 mg).

reactant | (3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yloxy)-acetic acid | 0.083 mmol, 30 mg | C(#N)C1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OCC(=O)O)=O | C21H16N2O4
reactant | HOBt | 30 mg, 3 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 48 mg, 3 eq.
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 2-(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yloxy)-N-(2-cyano-ethyl)-N-methyl-acetamide | 7 mg | C(#N)C1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OCC(=O)N(C)CCC#N)=O | C25H22N4O3
